US09353082B2
a) N-cyclohexyl-N-methyl-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide
To a stirred suspension of 3-(1H-imidazol-4-yl)pyridine dihydrochloride (1.745 g, 8 mmol) in a mixture of tetrahydrofuran (29 mL) and DMF (2.90 mL) was added potassium 2-methylpropan-2-olate (1.795 g, 16.0 mmol) and the mixture was refluxed for 30 minutes. The resulting brown suspension was cooled to room temperature and treated with pyridine (0.979 mL, 12 mmol) and N,N-dimethylpyridin-4-amine (0.098 g, 0.8 mmol), followed by the addition of cyclohexyl(methyl)carbamic chloride (1.476 g, 8.4 mmol). The reaction was heated to 90° C. overnight, whereupon the mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried (MgSO4) and filtered. After evaporation, the crude product was chromatographed over silica gel using a dichloromethane/methanol (9:1) mixture. Homogenous fractions were pooled and evaporated to leave a white powder, (160 mg, 7%).

reactant | 3-(1H-imidazol-4-yl)pyridine dihydrochloride | 8 mmol, 1.745 g | Cl.Cl.N1C=NC(=C1)C=1C=NC=CC1
reactant | potassium 2-methylpropan-2-olate | 16.0 mmol, 1.795 g | CC(C)(C)[O-].[K+]
reactant | pyridine | 12 mmol, 0.979 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclohexyl(methyl)carbamic chloride | 8.4 mmol, 1.476 g | C1(CCCCC1)N(C(=O)Cl)C | C8H14ClNO
solvent | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
solvent | DMF | 2.90 mL | CN(C)C=O | C3H7NO
catalyst | N,N-dimethylpyridin-4-amine | 0.8 mmol, 0.098 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | N-cyclohexyl-N-methyl-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C=1C=NC=CC1)C | C16H20N4O
